US07772226B2
(d) t-Butyl 4-[1-(2-butynyl)-6-methyl-7-oxo-6,7-dihydro-1H-imidazo[4,5-d]pyridazin-2-yl]piperazine-1-carboxylate
43.9 g of potassium carbonate and 27.8 ml of 2-butynyl bromide were successively added to a 5.5-L N,N-dimethylformamide solution of 88.4 g of t-butyl 4-(6-methyl-7-oxo-6,7-dihydro-1H-imidazo[4,5-d]pyridazin-2-yl)piperazine-1-carboxylate at 15° C. under a nitrogen atmosphere. The reaction solution was stirred at room temperature for 22 hours, and then poured into 10 L of water. The mixture was extracted with 5 L of ethyl acetate. The organic layer was successively washed twice with 5 L of water, and with 5 L of a saturated sodium chloride solution. The aqueous layer was extracted twice with 3 L of ethyl acetate. The organic layers were combined together, and then dried over anhydrous magnesium sulfate. The organic layer was concentrated under reduced pressure. The residue was purified by silica gel column chromatography. Thus, 54.3 g of the title compound was obtained from the fraction eluted with hexane-ethyl acetate (3:2 to 3:7).

reactant | potassium carbonate | 43.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-butynyl bromide | 27.8 ml | C(C#CC)Br | C4H5Br
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | t-butyl 4-(6-methyl-7-oxo-6,7-dihydro-1H-imidazo[4,5-d]pyridazin-2-yl)piperazine-1-carboxylate | 88.4 g | CN1N=CC2=C(C1=O)NC(=N2)N2CCN(CC2)C(=O)OC(C)(C)C | C15H22N6O3
solvent | water | 10 L | O | H2O
product | t-Butyl 4-[1-(2-butynyl)-6-methyl-7-oxo-6,7-dihydro-1H-imidazo[4,5-d]pyridazin-2-yl]piperazine-1-carboxylate | 54.3 g | C(C#CC)N1C(=NC2=C1C(N(N=C2)C)=O)N2CCN(CC2)C(=O)OC(C)(C)C | C19H26N6O3
